### PR TITLE
[Merged by Bors] - refactor(Order/Disjointed): allow arbitrary partial orders as domain

### PR DESCRIPTION
**Pull request by loefflerd**
---

- [x] depends on: #20137

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by loefflerd** [comment]
Hi Yael, here is the sequel PR generalising "disjointed". As promised, it gets rid of the `Algebra/Order` dependencies in `Mathlib.Order.Disjointed` that were introduced in the previous PR.

File: Mathlib/Algebra/Order/Disjointed.lean [hunk 1]
```diff
@@ -0,0 +1,68 @@
...
+
+variable {α ι : Type*} [GeneralizedBooleanAlgebra α]
+
+section SuccAddOrder
+
+variable [LinearOrder ι] [LocallyFiniteOrderBot ι] [Add ι] [One ι] [SuccAddOrder ι]
+
+theorem disjointed_add_one [NoMaxOrder ι] (f : ι → α) (i : ι) :
+    disjointed f (i + 1) = f (i + 1) \ partialSups f i := by
+  simpa only [succ_eq_add_one] using disjointed_succ f (not_isMax i)
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Disjointed.lean:30]: Can you be consistent between `disjointed_succ` and `disjointed_add_one` on whether you take `[NoMaxOrder ι]` or `¬ IsMax i`?

File: Mathlib/MeasureTheory/OuterMeasure/Caratheodory.lean [hunk 2]
```diff
@@ -71,6 +71,17 @@ theorem isCaratheodory_union (h₁ : IsCaratheodory m s₁) (h₂ : IsCaratheodo
     union_diff_left, h₂ (t ∩ s₁)]
   simp [diff_eq, add_assoc]
 
+lemma isCaratheodory_iUnion_finite {ι : Type*} {s : ι → Set α} {t : Set ι} (ht : t.Finite)
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/OuterMeasure/Caratheodory.lean:74]:
```suggestion
lemma IsCaratheodory.biUnion_of_finite {ι : Type*} {s : ι → Set α} {t : Set ι} (ht : t.Finite)
```

File: Mathlib/MeasureTheory/OuterMeasure/Caratheodory.lean [hunk 3]
```diff
@@ -92,17 +103,20 @@ theorem isCaratheodory_inter (h₁ : IsCaratheodory m s₁) (h₂ : IsCaratheodo
...
+    {s : ι → Set α} (h : ∀ i, m.IsCaratheodory (s i)) (i : ι) :
     m.IsCaratheodory (disjointed s i) := by
-  induction i with
-  | zero => exact h 0
-  | succ i _ => exact m.isCaratheodory_diff (h (i + 1)) (m.isCaratheodory_partialSups h i)
+  rw [disjointed_apply]
+  apply isCaratheodory_diff
+  · exact h i
+  · simpa only [Finset.sup_set_eq_biUnion, ← Finset.mem_coe, Finset.coe_Iio] using
+      m.isCaratheodory_iUnion_finite (finite_Iio _) fun j _ ↦ h j
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/OuterMeasure/Caratheodory.lean:119]:
```suggestion
      .biUnion_of_finite m (finite_Iio _) fun j _ ↦ h j
```

File: Mathlib/MeasureTheory/SetSemiring.lean [hunk 4]
```diff
@@ -321,16 +321,25 @@ lemma biInter_mem {ι : Type*} (hC : IsSetRing C) {s : ι → Set α}
     refine hC.inter_mem hs.1 ?_
     exact h (fun n hnS ↦ hs.2 n hnS)
 
-lemma partialSups_mem (hC : IsSetRing C) {s : ℕ → Set α} (hs : ∀ n, s n ∈ C) (n : ℕ) :
+lemma sup_mem (hC : IsSetRing C) {ι : Type*} {s : ι → Set α}
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/SetSemiring.lean:324]:
```suggestion
lemma finsetSup_mem (hC : IsSetRing C) {ι : Type*} {s : ι → Set α}
```

File: Mathlib/Algebra/Order/Disjointed.lean [hunk 5]
```diff
@@ -0,0 +1,68 @@
...
+
+protected lemma Monotone.disjointed_add_one [NoMaxOrder ι]  {f : ι → α} (hf : Monotone f) (i : ι) :
+    disjointed f (i + 1) = f (i + 1) \ f i := by
+  rw [← succ_eq_add_one, hf.disjointed_succ]
+  exact not_isMax i
+
+end SuccAddOrder
+section Nat
+
+-- Porting note: `disjointedRec` had a change in universe level.
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Disjointed.lean:44]: I think this porting note is irrelevant now?

File: Mathlib/Algebra/Order/Disjointed.lean (hunk 1 above)
Comment (loefflerd) [reply Mathlib/Algebra/Order/Disjointed.lean:31]: That was a deliberate choice. The overwhelmingly most important use case of `disjointed_add_one` is when  `ι` is `ℕ` or something order-isomorphic to it. I can't think of any interesting `SuccAddOrders` having a maximal element. But there certainly do exist `SuccOrder`s with a maximal element, such as `Fin n`. So making this consistent would either mean losing `Fin n`, or having to supply a tedious `¬ IsMax` side condition in every application to `ℕ`, neither of which seems desirable.

File: Mathlib/MeasureTheory/OuterMeasure/Caratheodory.lean (hunk 2 above)
Comment (loefflerd) [reply Mathlib/MeasureTheory/OuterMeasure/Caratheodory.lean]: This doesn't work, unfortunately. There's no hypothesis `IsCaratheodory foo bar` to dot-notate off, only `(h : ∀ i ∈ t, m.IsCaratheodory (s i))` which isn't dot-notateable. So I have gone with `isCaratheodory_biUnion_of_finite`.

File: Mathlib/MeasureTheory/OuterMeasure/Caratheodory.lean (hunk 3 above)
Comment (loefflerd) [reply Mathlib/MeasureTheory/OuterMeasure/Caratheodory.lean]: See above

File: Mathlib/MeasureTheory/OuterMeasure/Caratheodory.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/MeasureTheory/OuterMeasure/Caratheodory.lean]: No, but there is anonymous dot notation available, cf https://github.com/leanprover-community/mathlib4/pull/20545#discussion_r1916007568

Comment (loefflerd) [reply Mathlib/MeasureTheory/OuterMeasure/Caratheodory.lean]: Well, the suggestion you made did not work.

Comment (YaelDillies) [reply Mathlib/MeasureTheory/OuterMeasure/Caratheodory.lean]: Is it because the lemma here is in the wrong namespace, possibly?

Comment (loefflerd) [reply Mathlib/MeasureTheory/OuterMeasure/Caratheodory.lean]: Sorry, I see now! Not sure what I was doing wrong before.

**Comment by loefflerd** [comment]
Thanks for the review! I have reinstated the dot-notated `IsCaratheodory.biUnion_of_finite` lemma. I didn't try to refactor the rest of the `IsCaratheodory` file to use dot-notation; that is clearly possible is orthogonal to the present PR.

File: Mathlib/Order/Disjointed.lean [hunk 6]
```diff
@@ -1,167 +1,301 @@
...
 
 variable [GeneralizedBooleanAlgebra α]
 
-/-- If `f : ℕ → α` is a sequence of elements, then `disjointed f` is the sequence formed by
-subtracting each element from the nexts. This is the unique disjoint sequence whose partial sups
-are the same as the original sequence. -/
-def disjointed (f : ℕ → α) : ℕ → α
-  | 0 => f 0
-  | n + 1 => f (n + 1) \ partialSups f n
+section Preorder -- the *source* is a preorder
```
Comment (YaelDillies) [inline Mathlib/Order/Disjointed.lean:48]:
```
section Preorder -- the *indexing type* is a preorder
```
maybe?

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
